* source D2
V_VX         N00129 0 0Vdc
M_M2         N00840 N00243 0 0 Mbreakn  
+ L=2u  
+ W=20u         
V_V1         N00185 0 2.2
V_V2         N00243 0 1.2
M_M3         N00129 N00185 N00840 N00840 MbreakN  
+ L=2u  
+ W=100u         
